US07557114B2
(a) 5-(4-Methoxy-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A3(d) from 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) and 4-methoxy-piperidine trifluoroacetate. Yellow oil. MS (m/e): 333.3 ([M+H]+, 100%).

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | 4-methoxy-piperidine trifluoroacetate | FC(C(=O)O)(F)F.COC1CCNCC1
product | 5-(4-Methoxy-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CCC(CC1)OC | C19H28N2O3
